Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Flagyl
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
colonoscopy with biopsies on ___

 
History of Present Illness:
Ms. ___ is a ___ female with past medical history
of uveitis who presents with subacute worsening abdominal pain,
multi-year history of intermittent hematochezia who presents 
with
worsening abdominal pain, nausea.

HPI: The patient reported that around three weeks ago she woke 
up
with abdominal pain and vomiting that later remitted. Then,
___, she woke up with another episode of abdominal pain, with
associated nausea and vomiting. The pain was present throughout
her abdomen but was worse on the right side. The pain was sharp
and cramping and began in her upper abdomen and then moved to 
her
lower abdomen. It persisted throughout the day, and, at its 
worst
was ___. She also felt light-headed at the time. The pain
continued, and the patient presented to an OSH ED ___, where
she had CT scan with reported terminal ileitis. She was referred
for urgent outpatient GI work up. 

On follow up with GI the next day there was concern for Crohn's
disease given history of uveitis and subacute nature of 
abdominal
pain and ___ year history of hematochezia. Scheduled for MR
enterography in early ___ and outpatient colonoscopy for
further workup. She was prescribed ciprofloxacin and Flagyl.
Patient reports initial mild improvement with antibiotics. She
began having burning sensation of soles bilaterally and 
discussed
with GI doc and flagyl was discontinued ___ AM last dose. 
Pain
subsequently worsened evening of ___, the abdominal pain
worsened again, causing the patient to present. She reported
recent-onset bloating but denied any vomiting, diarrhea,
constipation, hematochezia, or fever. The patient currently 
rates
the pain at ___ and reports that it is worse when sitting up.
She denies pain with driving/bumps on the road. She states she
has improvement in pain when laying flat but that episodes of
pain can wake her from sleep. 

The patient reports having a "sensitive stomach" for many years.
She states for past ___ years she has had intermittent bloody 
bowel
movements. These have red blood mixed within the stool rather.
She denies red streaking on the surface. Per the patient, she
recently tried reducing her gluten and dairy intake
(___), with no relief. Patient states that in the ___
she was recommended to have celiac testing done but that she had
not gotten labs drawn.

In the ED:

 - Her initial vitals were notable for temperature 97.4 heart
rate 67 blood pressure 138/67 respiratory rate 18 satting 98% on
room air. 
 - Her exam in the ED was notable for:
"diffuse tenderness to mild palpation with absence of peritoneal
signs or rebound or guarding. Her right lower quadrant was
notably more tender with negative Rovsing's, obturator, psoas
signs. No CVA tenderness."
 - Labs in the ED were notable for:
Normal CBC with white blood cell count of 6.0, normal LFTs,
normal BMP, CRP of 7.4. UA was obtained which demonstrated small
leuk esterase, small blood, negative nitrites, moderate 
bacteria,
11 white blood cells. 
 - Imaging notable for:
___ KUB with no evidence of bowel obstruction or
intraperitoneal free air.
 - Patient was given Toradol and Zofran 1X each in the ED.
 - GI was consulted in ED who recommended NPO for colonoscopy,
stool studies, continuing antibiotics

On arrival to the floor, the patient reported no improvement to
toradol. She provides history as written above. 

In regards to reaction to flagyl she states it felt like a 
warmth
on the bottom of her feet bilaterally. She denied rash. She last
experienced it yesterday afternoon. She last took flagyl
yesterday AM. 

REVIEW OF SYSTEMS: 
General: Chills/sweats, although only while in severe pain.
GI: Patient denies hematemesis. Reported pain while straining to
have a bowel movement last week. Reported less frequent bowel
movements since beginning abx. Reported recent onset of 
bloating.
GU: Denies any dysuria, hematuria, or mucous/discharge in urine.
GYN: Denies any vaginal discharge or bleeding.

 
Past Medical History:
Terminal ileitis diagnosed 1 week prior to admission 
Uveitis: Patient reports diagnosed as child, affected bilateral
eyes, had followed mass eye and ear for many years, s/p 
treatment
with methotrexate
Migraine headaches

 
Social History:
___
Family History:
Sister: IBS
 
Physical ___:
ADMISSION PHYSICAL EXAM:
VS: ___ 1700 Temp: 98.4 PO BP: 127/81 R Sitting HR: 71 RR:
18 O2 sat: 98% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain Score:
___ 
GENERAL: Pleasant, lying in bed comfortably 
HEENT: PERRL, EOMI. Oropharynx clear, with moist mucous
membranes.
CARDIAC: Regular rate and rhythm, no murmurs, rubs, or gallops 
LUNG: No increased work of breathing. Lungs clear to 
auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Normoactive bowel sounds. Soft abdomen. Tympanic on
percussion. Diffusely tender throughout with no rebound
tenderness. No guarding Varying locations of most tender areas,
initially right sided and then left sided
EXT: Warm, well perfused, no lower extremity edema 
PULSES: 2+ radial pulses, 2+ ___ pulses
NEURO: Alert, oriented, face symmetric at rest and with
activation, full sensation throughout, motor and sensory 
function
grossly intact, symmetric palate elevation
SKIN: No significant rashes 

DISCHARGE PHYSICAL EXAM:
___ ___ Temp: 98.3 PO BP: 135/84 HR: 71 RR: 18 O2 sat: 99% 


GENERAL: Pleasant, lying in bed comfortably  
HEENT:  NC/AT EOMI MMM sclera nonicteric 
CARDIAC: Regular rate and rhythm, no murmurs, rubs, or gallops  
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi  
ABD: BS+ nondistended. Moderate TTP in RLQ without rebound or
guarding; + Rovsing sign 
BACK: No CVA tenderness 
EXT: Warm, well perfused, trace bilat ankle edema
PULSES: 2+ radial pulses, 2+ ___ pulses, 2+ DP pulses  
NEURO: Alert, oriented  
SKIN: No significant rashes  

 
Pertinent Results:
ADMISSION LABS: 
===============
___ 12:32PM URINE  HOURS-RANDOM
___ 12:32PM URINE  UCG-NEGATIVE
___ 12:32PM URINE  COLOR-Yellow APPEAR-Hazy* SP ___
___ 12:32PM URINE  BLOOD-SM* NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-8.0 
LEUK-SM*
___ 12:32PM URINE  RBC-4* WBC-11* BACTERIA-MOD* YEAST-NONE 
EPI-5
___ 12:32PM URINE  MUCOUS-RARE*
___ 12:30PM   GLUCOSE-87 UREA N-10 CREAT-1.1 SODIUM-136 
POTASSIUM-4.5 CHLORIDE-103 TOTAL CO2-21* ANION GAP-12
___ 12:30PM   estGFR-Using this
___ 12:30PM   ALT(SGPT)-14 AST(SGOT)-26 ALK PHOS-45 TOT 
BILI-0.3
___ 12:30PM   LIPASE-34
___ 12:30PM   ALBUMIN-4.1 CALCIUM-9.5 PHOSPHATE-3.4 
MAGNESIUM-2.0
___ 12:30PM   CRP-7.4*
___ 12:30PM   WBC-6.0 RBC-4.95 HGB-14.1 HCT-41.8 MCV-84 
MCH-28.5 MCHC-33.7 RDW-11.8 RDWSD-35.6
___ 12:30PM   NEUTS-53.7 ___ MONOS-9.5 EOS-0.5* 
BASOS-0.5 IM ___ AbsNeut-3.21 AbsLymp-2.13 AbsMono-0.57 
AbsEos-0.03* AbsBaso-0.03
___ 12:30PM   PLT COUNT-196

PERTINENT RESULTS:
==================
___ Gastroenterology Colonoscopy 
Normal mucosa in the whole colon and 15cm into the terminal 
ileum.
MAC anesthesia for future endoscopies. 

DISCHARGE LABS:
===============
___ 05:40AM BLOOD WBC-5.7 RBC-4.38 Hgb-12.5 Hct-36.8 MCV-84 
MCH-28.5 MCHC-34.0 RDW-11.8 RDWSD-35.8 Plt ___
___ 05:40AM BLOOD Glucose-89 UreaN-8 Creat-1.2* Na-139 
K-3.8 Cl-108 HCO3-21* AnGap-10
 
Brief Hospital Course:
Ms. ___ is a ___ year old female with fairly recent diagnosis 
of terminal ileitis with unclear etiology admitted following 1 
week of worsening abdominal pain and nausea, not responsive to 
outpatient antibiotics. She underwent colonoscopy, which 
demonstrated normal terminal ileum, biopsies taken and results 
pending. 

TRANSITIONAL ISSUES

[ ] Ms. ___ did require narcotic pain medications while 
inpatient. We have transitioned her to Bentyl for further pain 
control 

[ ] At discharge, Ms. ___ has biopsies from colonoscopy 
pending. Please followup to ensure she gets these results

[ ] Ms. ___ reportedly developed neuropathic symptoms with 
metronidazole (this is a side effect, not an allergy). Would 
consider further trial (when clinically warranted) as this is an 
uncommon side effect and she may require metronidazole for 
future GI pathology

[ ] stool studies pending but already s/p 6 days ciprofloxacin 

[ ] ttg is pending at time of diagnosis if negative would 
confirm no IgA deficiency, defer further work-up to GI (doubt 
celiac given unremarkable colonoscopy)

ACUTE ISSUES

#Terminal Ileitis
Found to have terminal ileitis 1 week prior to arrival on OSH CT 
AP (per report). Since saw our GI department here, broad ddx 
including infectious and inflammatory causes. Colonoscopy here 
while inpatient grossly normal with pending mucosal biopsies. 
She was discharged on bentyl for pain control

#Foot burning 
patient reported a foot burning/warmth in her feet a few days 
after starting metronidazole and improved after stopping this.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Norethindrone-Estradiol 1 TAB PO DAILY 
2. Ciprofloxacin HCl 500 mg PO Q12H 
3. MetroNIDAZOLE 500 mg PO BID 

 
Discharge Medications:
1.  DICYCLOMine 10 mg PO TID:PRN cramps 
RX *dicyclomine 10 mg 1 capsule(s) by mouth three times a day 
Disp #*30 Capsule Refills:*1 
2.  Ondansetron ODT 4 mg PO Q6H 
RX *ondansetron 4 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*30 Tablet Refills:*0 
3.  Norethindrone-Estradiol 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ABDOMINAL PAIN

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted because you were having abdominal pain which 
was concerning and not responding to antibiotics you had 
previously taken

WHAT WAS DONE FOR ME WHILE I WAS HERE?
- You underwent a colonoscopy, which was normal. Biopsies were 
taken and we are awaiting those results

WHAT DO I NEED TO DO WHEN I LEAVE THE HOSPITAL? 
- Please keep your appointments as listed below
- The gastrointestinal department will call you to inform you 
about your biopsies
- You do not need to continue taking antibiotics
- You have an MRI scheduled for ___ to help evaluate any 
GI issues

We wish you the best with your health, 
- Your ___ team
 
Followup Instructions:
___